US09334286B2
Preparation 42: 3-Chloro-6-(1-(2-methoxy-2-methylpropyl)-1H-pyrazol-4-yl)isoquinoline
NaH (60%, 18 mg) was added to a solution of 1-(4-(3-chloroisoquinolin-6-yl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol (Preparation 22, 96 mg, 0.318 mmol) in THF (6 mL). After stirring for 15 minutes, iodomethane (0.1 mL, 0.57 mmol) was added. The resulting solution was stirred at 60° C. under microwave irradiation for 60 minutes. The reaction mixture was diluted with EtOAc, filtered and purified using Biotage silica gel column chromatography eluting with 25% EtOAc/cyclohexane to give the title compound as yellow oil (57 mg, 57%).

reactant | NaH | 18 mg | [H-].[Na+]
reactant | 1-(4-(3-chloroisoquinolin-6-yl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol | 0.318 mmol, 96 mg | ClC=1N=CC2=CC=C(C=C2C1)C=1C=NN(C1)CC(C)(O)C | C16H16ClN3O
reactant | iodomethane | 0.57 mmol, 0.1 mL | IC | CH3I
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Chloro-6-(1-(2-methoxy-2-methylpropyl)-1H-pyrazol-4-yl)isoquinoline | 57 mg, 57% | ClC=1N=CC2=CC=C(C=C2C1)C=1C=NN(C1)CC(C)(C)OC | C17H18ClN3O
